US06432993B1
t-Butyl N-[2-amino-5-(4-methylthiophenoxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-methyl-N-[5-(4-methylthiophenoxy)-2-nitrophenyl]carbamate (2.53 g), palladium on carbon (10%, 2.5 g) and methanol (55 ml) and the reaction mixture was purified to give the title compound (1.94 g).

reactant | t-butyl N-methyl-N-[5-(4-methylthiophenoxy)-2-nitrophenyl]carbamate | 2.53 g | CN(C(OC(C)(C)C)=O)C1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C19H22N2O4S
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | methanol | 55 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(4-methylthiophenoxy)phenyl]-N-methylcarbamate | 1.94 g | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)C)N(C(OC(C)(C)C)=O)C | C19H24N2O2S
